US07696223B2
a) 1-(4-Fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to that of Example 6(a) from 2,3-dibromo-1-(4-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, ammonium formate and Pd/C. The title compound, ESI MS (m/z): 315 (M+H)+.

reactant | 2,3-dibromo-1-(4-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)Br)CC2=CC=C(C=C2)F)O | C17H13Br2FN2O3
reactant | ammonium formate | C(=O)[O-].[NH4+]
catalyst | Pd/C | [Pd] | Pd
product | 1-(4-Fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C=C2)CC2=CC=C(C=C2)F)O | C17H15FN2O3
